### PR TITLE
feat: bump to mathlib 4.32

### PR DESCRIPTION
**Pull request by grunweg**
- a few lemmas got upstreamed
- `NoAtoms` got renamed to `NullSingletonClass` (double-check!)
- the `unusedArguments` linter found a few unused typeclass assumptions
- `Set.le_eq_subset` is now a syntactic tautology; simplify proofs accordingly
- `convert` became intentionally weaker; a few proofs became `convert!` as a result
- remove three unused typeclass hypotheses (found thanks to a fix to the `unusedArguments` linter)

### CODE REVIEW

File: Carleson/ToMathlib/MeasureTheory/Integral/Misc.lean [hunk 1]
```diff
@@ -82,9 +82,10 @@ theorem lintegral_antitone_mul_le {f g k : ℝ≥0 → ℝ≥0∞} (hf : AEMeasu
     · intro k c t measurable_t hks hk ht
       simp only [SimpleFunc.coe_add, Pi.add_apply]
       simp_rw [add_mul]
+      sorry /- proof was:
```
Comment (grunweg) [inline Carleson/ToMathlib/MeasureTheory/Integral/Misc.lean]: This proof still needs a fix.

File: Carleson/ToMathlib/MeasureTheory/Function/EssSup.lean [hunk 2]
```diff
@@ -8,11 +8,12 @@ public section
 
 open MeasureTheory
 
-lemma essSup_le_iSup {α : Type*} {β : Type*} {m : MeasurableSpace α} {μ : Measure α}
-  [CompleteLattice β] {f : α → β} :
-    essSup f μ ≤ ⨆ i, f i := by
-  apply essSup_le_of_ae_le _ ?_
-  filter_upwards with i using (le_iSup ..)
+-- TODO: double-check how much of the golfing has survived into mathlib!
```
Comment (grunweg) [inline Carleson/ToMathlib/MeasureTheory/Function/EssSup.lean]: TODO: make any useful improvements to mathlib upstream, then remove this (before merging)

Comment (grunweg) [reply Carleson/ToMathlib/MeasureTheory/Function/EssSup.lean]: Upstream has a nice proof already: nothing left to do.

File: Carleson/ToMathlib/MeasureTheory/Integral/Misc.lean (hunk 1 above)
Comment (grunweg) [reply Carleson/ToMathlib/MeasureTheory/Integral/Misc.lean]: @lakesare If you're bored, help fixing this proof is certainly welcome :-)

Comment (lakesare) [reply Carleson/ToMathlib/MeasureTheory/Integral/Misc.lean]: Heh will have a look tomorrow!

**Comment by fpvandoorn** [comment]
Thanks! LGTM

Feel free to merge if CI passes.

**Comment by grunweg** [comment]
Green!, merging.
